US06413964B1
Step C: Preparation of tert-Butyl 4-(5-{[tert-butyl(diphenyl)silyl]oxy}-2-chlorobenzyl)-3-oxopiperazine-1-carboxylate
Sodium hydride (60% dispersion in mineral oil) (3.50 g, 0.0874 mmol) was washed with hexane, suspended in DMF (100 mL) at 0° C. with stirring under Ar, then treated with tert-Butyl-3-oxopiperazine-1-carboxylate (15.0 g, 0.728 mol). After 1 h, tert-butyl(3-bromomethyl-4-chlorophenoxy) diphenylsilane (33.34 g, 0.0728 mol) in DMF (50 mL) was added dropwise, and the reaction mixture was left to warm to room temperature overnight. The reaction mixture partitioned between EtOAc/hexane (50/50) and H2O, the aqueous layer washed with EtOAc/hexane, the organics combined, washed with H2O, brine, and dried (Na2SO4). Filtration and concentration to dryness gave the title compound which was used without purification.

reactant | Sodium hydride | 0.0874 mmol, 3.50 g | [H-].[Na+]
reactant | tert-Butyl-3-oxopiperazine-1-carboxylate | 0.728 mol, 15.0 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | tert-butyl(3-bromomethyl-4-chlorophenoxy) diphenylsilane | 0.0728 mol, 33.34 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC(=C(C=C1)Cl)CBr | C23H24BrClOSi
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(5-{[tert-butyl(diphenyl)silyl]oxy}-2-chlorobenzyl)-3-oxopiperazine-1-carboxylate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=CC(=C(CN2C(CN(CC2)C(=O)OC(C)(C)C)=O)C1)Cl | C32H39ClN2O4Si
